US06008229
To a mixture of 2-acetamidomethyl-1-(2,4-dichloro-3-hydroxymethylphenyl)pyrrole (51 mg) and triethylamine (19.8 mg) in dichloromethane (2 ml) was added methanesulfonyl chloride (20.5 mg) under nitrogen atmosphere in ice-methanol bath, and the mixture was stirred for 2 hours at the same temperature. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with water, saturated sodium bicarbonate solution and brine, dried over magensium sulfate and evaporated in vacuo to give 2-acetamidomethyl-1-[2,4-dichloro-3-(methanesulfonyloxymethyl)phenyl]pyrrole (64 mg) as oil.

reactant | 2-acetamidomethyl-1-(2,4-dichloro-3-hydroxymethylphenyl)pyrrole | 51 mg | C(C)(=O)NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)CO)Cl | C14H14Cl2N2O2
reactant | triethylamine | 19.8 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 20.5 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-acetamidomethyl-1-[2,4-dichloro-3-(methanesulfonyloxymethyl)phenyl]pyrrole | 64 mg | C(C)(=O)NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COS(=O)(=O)C)Cl | C15H16Cl2N2O4S
